US06281219B1
Under nitrogen atmosphere, 6-(3-trifluoromethylbenzyl)pyrimidin-4-one (7.0 g, 0.027 mol) is dissolved in phosphorus oxychloride (30 ml) and is refluxed for 1.5 hours. After cooling the solution is concentrated under reduced pressure. The solid is then dissolved in ethyl acetate, washed with water, saturated brine, dried and the crude product purified by flash column chromatography to give 6-(3-trifluoromethylbenzyl)-4-chloro-pyrimidine (6.3 g).

reactant | 6-(3-trifluoromethylbenzyl)pyrimidin-4-one | 0.027 mol, 7.0 g | FC(C=1C=C(CC2=CC(NC=N2)=O)C=CC1)(F)F | C12H9F3N2O
reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-(3-trifluoromethylbenzyl)-4-chloro-pyrimidine | 6.3 g | FC(C=1C=C(CC2=CC(=NC=N2)Cl)C=CC1)(F)F | C12H8ClF3N2
